US05382379
Formic acid (11.3 g) and toluene (5 ml) were added to 1,1-ethylenedioxy-4-(3',5'-difluoro-4'-trifluoromethylphenyl)cyclohexane (15.7 g), followed by heating the mixture under reflux with stirring for 2 hours, adding the reaction solution to water (50 ml), extracting with ethyl acetate (100 ml), drying the organic layer over anhydrous MgSO4, and distilling off the solvent under reduced pressure, to obtain 4-(3',5'-difluoro-4'-trifluoromethylphenyl)cyclohexanone (12.0 g).

reactant | Formic acid | 11.3 g | C(=O)O | CH2O2
reactant | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
reactant | 1,1-ethylenedioxy-4-(3',5'-difluoro-4'-trifluoromethylphenyl)cyclohexane | 15.7 g | C1OC2(CCC(CC2)C2=CC(=C(C(=C2)F)C(F)(F)F)F)OC1 | C15H15F5O2
solvent | water | 50 ml | O | H2O
product | 4-(3',5'-difluoro-4'-trifluoromethylphenyl)cyclohexanone | 12.0 g | FC=1C=C(C=C(C1C(F)(F)F)F)C1CCC(CC1)=O | C13H11F5O
